US03933845
A mixture of 5 parts of 5-[5 -(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole in 130 parts by volume of 48% aqueous hydrobromic acid was refluxed for three hours, then cooled and water added. The resulting mixture was neutralised by the addition of solid sodium bicarbonate, then made slightly acidic by re-acidification with dilute hydrochloric acid and extracted with chloroform. The chloroform extract was washed with saturated brine and water, and was dried. Evaporation of the chloroform gave a solid which was purified by precipitation from aqueous ethanol to give 0.36 parts of 5-[5-hydroxy-8-n-propyl-4-oxo-4 H-1-benzopyran-2-yl]tetrazole, m.p. 242.5°-245°C.

reactant | 5-[5 -(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=C(C2=C1C(C=C(O2)C2=NN=NN2)=O)CCC)C | C18H22N4O3
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-[5-hydroxy-8-n-propyl-4-oxo-4 H-1-benzopyran-2-yl]tetrazole | OC1=CC=C(C2=C1C(C=C(O2)C2=NN=NN2)=O)CCC | C13H12N4O3
